US03944560
Step A.--Preparation of 7-Nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane:
A mixture of 0.11 mole of nitronium tetrafluoroborate and 60 g. tetramethylene sulfone is stirred at 10° C. and 0.1 mole of 3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane, prepared as described in Example 57, Step A, added during 30 minutes. The cooling bath then is removed and the mixture stirred an additional 20 minutes at 35° C., poured into ice and water, the product extracted with ether, the ether solution dried over magnesium sulfate and evaporated. The product obtained following crystallization from a mixture of chloroform and petroleum ether is 7-nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane.

reactant | nitronium tetrafluoroborate | 0.11 mole | F[B-](F)(F)F.O=[N+]=O
reactant | tetramethylene sulfone | C1CCCS1(=O)=O | C4H8O2S
reactant | 3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane | 0.1 mole | O1C2(C1)COC1=C(OC2)C=CC=C1 | C10H10O3
product | 7-Nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-2'-oxirane | [N+](=O)([O-])C1=CC2=C(OCC3(OC3)CO2)C=C1 | C10H9NO5
